US04452809
Trans-3-{[(methylamino)carbonyl]oxy}-4-(4-chlorophenoxy)-N,N-dimethyl-1-pyrrolidinecarboxamide
A solution of 1.0 g. (0.003 mole) of trans-3-(4-chlorophenoxy)-4-hydroxy-N,N-dimethyl-1-pyrrolidinecarboxamide and 1.0 g. (0.02 mole) of methylisocyanate in 20 ml. of methylene chloride was let stand at ambient temperature for 48 hr. The solution was concentrated to give an oil which crystallized upon standing. The solid was recrystallized from benzene-cyclohexane to yield 0.6 g. (50%) of white solid, m.p. 132°-134° C.

reactant | trans-3-(4-chlorophenoxy)-4-hydroxy-N,N-dimethyl-1-pyrrolidinecarboxamide | 0.003 mole | ClC1=CC=C(O[C@@H]2CN(C[C@H]2O)C(=O)N(C)C)C=C1 | C13H17ClN2O3
reactant | methylisocyanate | 0.02 mole | CN=C=O | C2H3NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Trans-3-{[(methylamino)carbonyl]oxy}-4-(4-chlorophenoxy)-N,N-dimethyl-1-pyrrolidinecarboxamide | CNC(=O)O[C@@H]1CN(C[C@H]1OC1=CC=C(C=C1)Cl)C(=O)N(C)C | C15H20ClN3O4
